US07935688B2
(4) Synthesis of 2-(4-{1-ethyl-1-[3-methyl-4-(4,4,4-trifluoro-3-methoxymethoxy-3-trifluoromethyl-1-butynyl)-phenyl]-propyl}-2-methyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane
A [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II), dichloromethane complex (1:1) (205 mg, 0.251 mmol), 1,1′-bis(diphenylphosphino)ferrocene (139 mg, 0.251 mmol), potassium acetate (738 mg, 7.518 mmol) and bis(pinacolato)diboron (827 mg, 3.258 mmol) were added to a solution of trifluoromethanesulfonic acid 4-{1-ethyl-1-[3-methyl-4-(4,4,4-trifluoro-3-methoxymethoxy-3-trifluoromethyl-1-butynyl)-phenyl]-propyl}-2-methyl-phenyl ester (Example 25-(3); 1.59 g, 2.506 mmol) in anhydrous dioxane (30 mL). After replacement with nitrogen, the mixture was stirred at 80° C. overnight. The reaction mixture was then poured into a saturated aqueous sodium bicarbonate solution, followed by extraction with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (hexane:ethyl acetate=100:0 to 30:70) to give the target product as a colorless oil (1.31 g, 85%).

reactant | potassium acetate | 7.518 mmol, 738 mg | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 3.258 mmol, 827 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | trifluoromethanesulfonic acid 4-{1-ethyl-1-[3-methyl-4-(4,4,4-trifluoro-3-methoxymethoxy-3-trifluoromethyl-1-butynyl)-phenyl]-propyl}-2-methyl-phenyl ester | 2.506 mmol, 1.59 g | C(C)C(CC)(C1=CC(=C(C=C1)C#CC(C(F)(F)F)(C(F)(F)F)OCOC)C)C1=CC(=C(C=C1)OS(=O)(=O)C(F)(F)F)C | C27H27F9O5S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.251 mmol, 139 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 2-(4-{1-ethyl-1-[3-methyl-4-(4,4,4-trifluoro-3-methoxymethoxy-3-trifluoromethyl-1-butynyl)-phenyl]-propyl}-2-methyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 1.31 g, 85% | C(C)C(CC)(C1=CC(=C(C=C1)C#CC(C(F)(F)F)(C(F)(F)F)OCOC)C)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C32H39BF6O4
